US06355653B1
2-(5-Amino-7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-phenol
The title compound, MS m/e (%): 307 (M+2, 100), was prepared in accordance with the general method of example 63 from 4-bromo-pyridine-2,6-diamine, O-mesitylene-sulfonylhydroxylamine, and salicylaldehyde. The purification was performed with reversed phase HPLC eluting with an acetonitrile/water gradient.

reactant | 4-bromo-pyridine-2,6-diamine | BrC1=CC(=NC(=C1)N)N | C5H6BrN3
reactant | O-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
product | 2-(5-Amino-7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-phenol | NC1=CC(=CC=2N1N=C(N2)C2=C(C=CC=C2)O)Br | C12H9BrN4O
